US07319104B2
N-[2-(4-Methoxyphenyl)ethyl]-6-methylpyridin-2-amine
Similarly prepared from 4-methoxyphenyl acetic acid and 2-amino-6-picoline.

reactant | 4-methoxyphenyl acetic acid | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | 2-amino-6-picoline | NC1=NC(=CC=C1)C | C6H8N2
product | N-[2-(4-Methoxyphenyl)ethyl]-6-methylpyridin-2-amine | COC1=CC=C(C=C1)CCNC1=NC(=CC=C1)C | C15H18N2O
